US08455522B2
Step 3: Synthesis of 3-methyl-5-(4-(oxetan-2-yl)pyridin-3-yl)benzo[d]oxazol-2(3H)-one
A mixture of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one (123 mg, 0.44 mmol), 3-Bromo-4-oxetan-2-yl-pyridine (96 mg, 0.44 mmol), Na2CO3 (2 M in water, 067 mL, 1.35 mmol) and PdCl2(PPh3)2 (16 mg, 0.02 mmol) in DMF (4 mL) was heated at 100° C. for 3 h. After concentration, the resulting residue was diluted with DCM and saturated NH4Cl solution. After filteration, the filtrates were concentrated and the residue was purified by flash column (MeOH/CH2Cl2, v/v, 0-3.5%) and afforded the title compound (6 mg, 5%); ESI-MS m/z: 283 [M+1]+, Retention time 1.03 min; 1HNMR (MeOD, 400.342 MHz) δ ppm 2.60-2.65 (m, 1H), 2.83-2.87 (m, 1H), 3.47 (s, 3H), 4.62-4.68 (m, 1H), 4.75-4.82 (m, 1H), 5.91 (t, J=7.6 Hz, 1H), 7.06 (dd, J=8, 1.6 Hz, 1H), 7.15 (d, J=1.6 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 7.94 (d, J=5.2 Hz, 1H), 8.46 (s, 1H), 8.67 (d, J=5.2 Hz, 1H).

reactant | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 0.44 mmol, 123 mg | CN1C(OC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H18BNO4
reactant | 3-Bromo-4-oxetan-2-yl-pyridine | 0.44 mmol, 96 mg | BrC=1C=NC=CC1C1OCC1 | C8H8BrNO
reactant | Na2CO3 | 1.35 mmol, 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.02 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-methyl-5-(4-(oxetan-2-yl)pyridin-3-yl)benzo[d]oxazol-2(3H)-one | 6 mg, 5% | CN1C(OC2=C1C=C(C=C2)C=2C=NC=CC2C2OCC2)=O | C16H14N2O3
